US06194441B1
1-Benzyloxvcarbonylamino-4-(4-t-butyldimethylsilyloxymethylimidazol-1-yl)fluorobenzene
1-Amino-4-(4-t-butyldimethylsilyloxymethylimidazol-1-yl)fluorobenzene (36.1 g) was dissolved in dry dichloromethane (450 ml), treated with pyridine (11.3 ml), then stirred under argon while cooling to −20° C. Benzyl chloroformate (17.7 ml) in dichloromethane (50 ml) was added dropwise, maintaining the temperature. The mixture was then allowed to warm to ambient temperature over 1 hour, then stirred for a further 1.5 hours. The mixture was diluted with aqueous sodium bicarbonate (250 ml), and the organic layer separated. A further extraction with dichloromethane (200 ml) was made, the combined organic layers dried over magnesium sulfate, and solvent evaporated. The resulting oil was re-evaporated with toluene, and purified by chromatography on silica (500 g) in a sinter column, eluting with a gradient from CH2Cl2 to 50% EtOAc in CH2Cl2. Evaporation, then re-evaporation with toluene gave solid product (51 g).

reactant | 1-Amino-4-(4-t-butyldimethylsilyloxymethylimidazol-1-yl)fluorobenzene | 36.1 g | NC1=C(C=C(C=C1)N1C=NC(=C1)CO[Si](C)(C)C(C)(C)C)F | C16H24FN3OSi
reactant | pyridine | 11.3 ml | N1=CC=CC=C1 | C5H5N
reactant | Benzyl chloroformate | 17.7 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 450 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | sodium bicarbonate | 250 ml | C([O-])(O)=O.[Na+]
product | 1-Benzyloxvcarbonylamino-4-(4-t-butyldimethylsilyloxymethylimidazol-1-yl)fluorobenzene | 51 g | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(C=C1)N1C=NC(=C1)CO[Si](C)(C)C(C)(C)C)F | C24H30FN3O3Si
